US06774132B1
1′-s-Butylspiro[indoline-3,3′-piperidin]-2-one
The compound was prepared according to PROCEDURE 1, Method A by reaction with spiro[indoline-3,3′-piperidin]-2-one and 2-butanone (3 equivalents). Yield: 46%. 13C NMR (CDCl3): δ 11.5, 11.6, 13.3, 13.3, 21.7, 21.9, 26.4, 26.5, 32.1, 32.1, 46.1, 48.6, 49.0, 50.9, 52.4, 56.6, 61.2, 62.5, 109.6, 121.5, 121.6, 126.4, 126.5, 127.2, 134.7, 134.9, 140.1, 140.1, 182.4, 182.5; MS (CI, CH4): m/z (rel. int.) 259 (M+1, 100).

reactant | spiro[indoline-3,3′-piperidin]-2-one | N1CC2(CCC1)C(NC1=CC=CC=C12)=O | C12H14N2O
reactant | 2-butanone | 3 equivalents | CC(CC)=O | C4H8O
reactant | CH4 | C | CH4
product | 1′-s-Butylspiro[indoline-3,3′-piperidin]-2-one | Yield: 46% | C(C)(CC)N1CC2(CCC1)C(NC1=CC=CC=C12)=O | C16H22N2O
